US08937083B2
Preparation of isopropyl-(1-pyridin-3-yl-1H-pyrazol-4-yl)-amine
1-pyridin-3-yl-1H-pyrazol-4-ylamine (0.6 g, 3.7 mmol) was dissolved in isopropyl acetate (8.5 ml). To the mixture, acetone (0.261 g, 4.5 mmol), trifluoroacetic acid (0.855 g, 7.5 mmol) and sodium triacetoxyborohydride (0.945 g, 4.5 mmol) were added. The reaction was stirred under nitrogen at room temperature for 4.5 hours and then quenched with 10% sodium hydroxide solution until the pH reached ˜9. The layers were separated, and the aqueous phase was extracted with ethyl acetate. The organic extracts were combined, dried over sodium sulfate and concentrated to dryness. The crude material was purified by silica gel chromatography (gradient elution of 5% methanol/dichloromethane) to give the title compound as an off white solid (0.35 g, 46%): mp 105-107° C.; 1H NMR (300 MHz, CDCl3) δ 8.82 (d, J=2.2 Hz, 1H), 8.63 (dd, J=4.8, 1.5 Hz, 1H), 8.13 (d, J=1.8 Hz, 1H), 8.03 (d, J=2.7 Hz, 1H), 7.94-7.77 (m, 1H), 7.38 (dt, J=15.2, 7.6 Hz, 1H), 6.99 (t, 1H), 3.72 (m, 1H), 1.30 (t, J=10.0 Hz, 6H). ESIMS 214 m/z (M+1).

reactant | 1-pyridin-3-yl-1H-pyrazol-4-ylamine | 3.7 mmol, 0.6 g | N1=CC(=CC=C1)N1N=CC(=C1)N | C8H8N4
reactant | acetone | 4.5 mmol, 0.261 g | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 7.5 mmol, 0.855 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 4.5 mmol, 0.945 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | isopropyl acetate | 8.5 ml | C(C)(=O)OC(C)C | C5H10O2
product | isopropyl-(1-pyridin-3-yl-1H-pyrazol-4-yl)-amine | C(C)(C)NC=1C=NN(C1)C=1C=NC=CC1 | C11H14N4
